US07476688B2
(Step 2) (3S,4R)-4-(Hydroxymethyl)-3-phenyltetrahydro-1H-2-pyrrolone
10% Palladium-carbon (1.7 g) was added to a solution of (3S,4R)-4-[(benzyloxy)methyl]-3-phenyltetrahydro-1H-2-pyrrolone (1.73 g, 6.2 mmol) in methanol (40 ml). The mixture was stirred at room temperature under a hydrogen stream for 15 hours and further stirred at 60° C. for 3 hours. The reaction mixture was filtered and was subjected to distillation under reduced pressure. Ether was added to the residue and the precipitates were filtered out to yield the title compound as a white solid (1.05 g). 1H-NMR (CDCl3) δ(ppm) 1.90 (1H, brs), 2.69 (1H, m), 3.32 (1H, dd, J=10.0 Hz, 8.0 Hz), 3.46 (1H, d, J=9.2 Hz), 3.56 (1H, t, J=8.8 Hz), 3.67 (1H, m), 3.75 (1H, m), 6.50 (1H, brs), 7.19-7.30 (3H, m), 7.32-7.38 (2H, m)

reactant | (3S,4R)-4-[(benzyloxy)methyl]-3-phenyltetrahydro-1H-2-pyrrolone | 6.2 mmol, 1.73 g | C(C1=CC=CC=C1)OC[C@@H]1[C@H](C(NC1)=O)C1=CC=CC=C1 | C18H19NO2
solvent | methanol | 40 ml | CO | CH4O
catalyst | Palladium-carbon | 1.7 g | [C].[Pd]
product | (3S,4R)-4-(Hydroxymethyl)-3-phenyltetrahydro-1H-2-pyrrolone | 1.05 g | OC[C@@H]1[C@H](C(NC1)=O)C1=CC=CC=C1 | C11H13NO2
